US06821992B1
N-(tert-Butoxycarbonyl)glycine cesium salt
To a mixture of N-(tert-butoxycarbonyl)glycine (42.0 g) in water (250 ml) was added cesium carbonate (39.1 g). The mixture was stirred at room temperature for 10 minutes. The water was removed by azeotropic distillation with toluene to give the title product.

reactant | N-(tert-butoxycarbonyl)glycine | 42.0 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | cesium carbonate | 39.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 250 ml | O | H2O
product | N-(tert-Butoxycarbonyl)glycine cesium salt | [Cs+].C(C)(C)(C)OC(=O)NCC(=O)[O-] | InChI=1S/C7H13NO4.Cs/c1-7(2,3)12-6(11)8-4-5(9)10;/h4H2,1-3H3,(H,8,11)(H,9,10);/q;+1/p-1
